US04918236
3-Acetoxy-2-(2,4-dichlorobenzoyl)cyclohex-2-enone
2-(2,4-Dichlorobenzoyl)cyclohexane-1,3-dione (11.4 g, 0.04 mol), acetyl chloride (3.15 g, 0.041 mol) and pyridine (3.2 g, 0.041 mol) were mixed in 100 ml ether and stirred at room temperature for 24 hours. The volatiles were evaporated under reduced pressure, and water and CH2Cl2 were added. The organic layer was then washed three times each with 1N HCl and then 5% Na2CO3, dried with MgSO4 and the solvent evaporated under reduced pressure to yield the product, 8.4 g, 64%. The structure was confirmed as such by nuclear magnetic, infrared and mass spectroscopy.

reactant | 2-(2,4-Dichlorobenzoyl)cyclohexane-1,3-dione | 0.04 mol, 11.4 g | ClC1=C(C(=O)C2C(CCCC2=O)=O)C=CC(=C1)Cl | C13H10Cl2O3
reactant | acetyl chloride | 0.041 mol, 3.15 g | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.041 mol, 3.2 g | N1=CC=CC=C1 | C5H5N
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-Acetoxy-2-(2,4-dichlorobenzoyl)cyclohex-2-enone | C(C)(=O)OC1=C(C(CCC1)=O)C(C1=C(C=C(C=C1)Cl)Cl)=O | C15H12Cl2O4
